US07163942B2
(R)-4-{[[Carbamoyl-(4-fluoro-phenyl)-methyl]-(4-chloro-benzenesulfonyl)-amino]-methyl}-benzoic acid methyl ester
The title compound was prepared employing the procedure in Example 2 using (R)-2-(4-chloro-benzenesulfonylamino)-2-(4-fluoro-phenyl)-acetamide and methyl-4-hydroxymethylbenzoate to afford the desired product. Diagnostic 13CNMR (100 MHz, CDCl3) 49.9, 52.3, 63.4, 116.0, 116.2, 127.9, 129.1, 129.5, 129.6, 132.0, 132.1, 139.8, 142.3. MS 491.2 m/z (M+1).

reactant | (R)-2-(4-chloro-benzenesulfonylamino)-2-(4-fluoro-phenyl)-acetamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)C1=CC=C(C=C1)F | C14H12ClFN2O3S
reactant | methyl-4-hydroxymethylbenzoate | COC(C1=CC=C(C=C1)CO)=O | C9H10O3
product | (R)-4-{[[Carbamoyl-(4-fluoro-phenyl)-methyl]-(4-chloro-benzenesulfonyl)-amino]-methyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN(S(=O)(=O)C1=CC=C(C=C1)Cl)[C@H](C1=CC=C(C=C1)F)C(N)=O)=O | C23H20ClFN2O5S
